US06504032B1
Synthesis of 2-chloro-5-(2-pyridyl)pyridine (A-4)
The same synthesis procedures as in Example 1 were conducted except for using 2-chloro-5-cyanopyridine and 1,4-dioxane-2,3-diol in place of 4-cyanopyridine and a 40% glyoxal aqueous solution, respectively, and, after completion of the reaction, the organic layer was distilled under reduced pressure of 3.0 to 3.1 Torr to obtain a 150 to 152° C. fraction. Thus, there was obtained 151.0 g (yield: 82.5%) of the end product as pale yellow crystals. HPLC analysis revealed that purity of the product was 99.1%.

reactant | 2-chloro-5-cyanopyridine | ClC1=NC=C(C=C1)C#N | C6H3ClN2
reactant | 1,4-dioxane-2,3-diol | O1C(C(OCC1)O)O | C4H8O4
reactant | glyoxal | C(=O)C=O | C2H2O2
product | 2-chloro-5-(2-pyridyl)pyridine | 151.0 g, yield: 82.5% | ClC1=NC=C(C=C1)C1=NC=CC=C1 | C10H7ClN2
